US07626042B2
(2) 5-Chloro-2-pivaloyloxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide (Compound No. 1).
A solution of 5-chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide(0.20 g, 0.52 mmol) in tetrahydrofuran(3 mL) was added to a suspension of 60% sodium hydride(21.8 mg, 0.55 mmol) in tetrahydrofuran (3 mL) under ice bath, and the mixture was stirred for 5 minutes. Then, pivaloyl chloride(71 μ L, 0.57 mmol) was added and the mixture was stirred for 10 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed successively with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was washed with isopropyl ether/n-hexane under suspension to give the title compound (195 mg, 80.2%) as a white crystal.

reactant | 5-chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide | 0.52 mmol, 0.20 g | ClC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8ClF6NO2
reactant | sodium hydride | 0.55 mmol, 21.8 mg | [H-].[Na+]
reactant | pivaloyl chloride | 0.57 mmol | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-Chloro-2-pivaloyloxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | 195 mg, 80.2% | ClC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC(C(C)(C)C)=O | C20H16ClF6NO3
